US07935815B2
Synthesis of tert-butyl 2-methoxycarbonylmethyl-pyrrolidine-1-carboxylate
Trimethylsilyldiazomethane (2 M solution in hexane, 1.5 ml) was added dropwise to a mixed solution of tert-butyl 2-carboxymethylpyrrolidine-1-carboxylate (CAS No. 194154-91-1, 500 mg) in methanol (1 ml)-toluene (1 ml) under ice-cooling, and the reaction solution was stirred at the same temperature for three hours. The reaction solution was concentrated. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 506 mg of the title compound. The property values of the compound are as follows.

reactant | Trimethylsilyldiazomethane | 2 M, 1.5 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | tert-butyl 2-carboxymethylpyrrolidine-1-carboxylate | C(=O)(O)CC1N(CCC1)C(=O)OC(C)(C)C | C11H19NO4
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 1 ml | CO | CH4O
product | tert-butyl 2-methoxycarbonylmethyl-pyrrolidine-1-carboxylate | 506 mg | COC(=O)CC1N(CCC1)C(=O)OC(C)(C)C | C12H21NO4
